*** Bandgap ***

.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

*** source ***
Vdd Vdd 0 DC 1.8

*** PTAT ***
XP1 Vdd N1 N3 Vdd MY_PFET W_val=1 L_val=0.50
XP2 Vdd N1 N2 Vdd MY_PFET W_val=1 L_val=0.50

R1 N3 N4 1k

XBp1 0 0 N4 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=8
XBp2 0 0 N2 sky130_fd_pr__pnp_05v5_W3p40L3p40 
Xop_amp1 N1 N3 N2 Ideal_op_amp

*** CTAT and Ref ***
XP3 Vdd N1 Vref Vdd MY_PFET W_val=10 L_val=0.50
R2 Vref N6 837
XBp3 0 0 N6 sky130_fd_pr__pnp_05v5_W3p40L3p40

.subckt Ideal_op_amp Vout Vp Vm
    E1 Vout 0 Vp Vm 1Meg
.ends Ideal_op_amp

.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
    XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 m=1
.ends MY_PFET

.control
    dc temp -40 125 1
    plot vref 
.endc

.end