*** Bandgap ***

.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

*** source ***
Vdd Vdd 0 DC 1.8

*** PTAT ***
XP1 Vdd N1 N3 Vdd MY_PFET W_val=1 L_val=0.50
XP2 Vdd N1 N2 Vdd MY_PFET W_val=1 L_val=0.50

R1 N3 N4 1k

XBp1 0 0 N4 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=8
XBp2 0 0 N2 sky130_fd_pr__pnp_05v5_W3p40L3p40 
Xop_amp1 N1 N3 N2 Ideal_op_amp

*** CTAT and Ref ***
XP3 Vdd N1 Vref Vdd MY_PFET W_val=10 L_val=0.50
R2 Vref N6 837
XBp3 0 0 N6 sky130_fd_pr__pnp_05v5_W3p40L3p40

.subckt Ideal_op_amp Vout Vp Vm
    E1 Vout 0 Vp Vm 1Meg
.ends Ideal_op_amp

.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
    XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 W='W_val' L='L_val' 
+ ad=  {int((nf+1)/2)*w/nf*0.29}
+ as=  {int((nf+2)/2)*w/nf*0.29}
+ pd=  {2*int((nf+1)/2)*(w/nf+0.29)}
+ ps=  {2*int((nf+2)/2)*(w/nf+0.29)}
+ nrd= {0.29/w}
+ nrs= {0.29/w}
+ sa = 0 sb = 0 sd = 0
.ends MY_PFET

.control
    dc temp -40 125 1
    plot vref 
.endc

.end